data/oMe_Silver.jsonl
{"reaction_id": "NG-008_1-C=C_2-c1ccc(OC)cc1_3-C","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(C=C)(=O)(c1ccc(OC)cc1)","C(C)(=O)OO"],"products_smiles": ["C(C=C)(=O)Oc1ccc(OC)cc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=[OH+])c1ccc(OC)cc1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C=C)([OH])(OOC(=O)C)c1ccc(OC)cc1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C=C)(=[OH+])Oc1ccc(OC)cc1","rationale": "A 1,2-shift occurs from the more migratory c1ccc(OC)cc1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=O)Oc1ccc(OC)cc1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
{"reaction_id": "NR-319_1-C_2-C(F)(F)F_3-c1ccc(C)cc1_4-C2CC2","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(C)C1(C(F)(F)F)OC1(c1ccc(C)cc1)C2CC2","NN"],"products_smiles": ["[CH](=C(C(F)(F)F)C(O)(c1ccc(C)cc1)C2CC2)C"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(C)C1(C(F)(F)F)OC1(c1ccc(C)cc1)C2CC2","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(C)=C(C(F)(F)F)C(O)(c1ccc(C)cc1)C2CC2","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(C)=C(C(F)(F)F)C(O)(c1ccc(C)cc1)C2CC2","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C(F)(F)F)C(O)(c1ccc(C)cc1)C2CC2)C","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C(F)(F)F)C(O)(c1ccc(C)cc1)C2CC2)C","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
